### ISSUE TITLE
regression: wrong LRAT produced in 2.2.0-rc2

### ISSUE THREAD

**Issue by hargoniX** [arminbiere/cadical#134]
Doing some more testing on 2.2.0-rc2 I noticed that some of our tests in Lean 4 now fail because the LRAT proofs are rejected. Unfortunately this turns out to be non trivial to minimize:
```lean
import Std.Tactic.BVDecide

theorem bitvec_InstCombineShift__351 :
    ∀ (X C1 C2 : BitVec 6), (X * C1) <<< C2 = X * (C1 <<< C2) := by
  intros
  bv_decide
```
this theorem generated from LLVM does end up producing a valid LRAT file up to width 5 but a bad one on width 6 and above. I did additionally confirm with `lrat-trim` that these proofs are wrong. Find attached the CNF as well as the LRAT file that was produced by cadical with the invocation:
```
./build/cadical generated.cnf output.lrat --lrat=true
```
Both lrat-trim and Lean's verified LRAT checker produce:
```
λ ../lrat-trim/lrat-trim ../generated.cnf output.lrat
c LRAT-TRIM Version 0.2.0 trims LRAT proofs
c Copyright (c) 2023 Armin Biere University of Freiburg
c reading CNF and LRAT files
c backward checking trimmed clauses after trimming proof
c reading CNF from '../generated.cnf'
c found 'p cnf 538 1516' header
c parsed CNF with 1516 added clauses
c parsing original CNF took 0.00 seconds and needed 4 MB memory
c reading proof from 'output.lrat'
c parsed original proof with 4261 added and 3540 deleted clauses
c parsing original proof took 0.00 seconds and needed 4 MB memory
c trimmed 1516 original clauses in CNF to 1395 clauses 92%
c trimmed 4261 added clauses in original proof to 3602 clauses 85%
c trimming proof took 0.00 seconds
lrat-trim: propagating antecedents does not yield conflict while checking clause '4295' (run with '-t' to track line information and '-v' to print the actual clause)
```

[generated.txt](https://github.com/user-attachments/files/19781900/generated.txt) (uploading .cnf is not allowed)

(Out of curiosity: Are there standard tools to minimize CNFs like this to make finding bugs easier?)

**Comment by m-fleury** [comment]
Is Lean already supporting BVA, aka adding variables? Because lrat-trim 0.2 does not. You need the latest version. To deactivate it, you can use `--no-factor`.

> (Out of curiosity: Are there standard tools to minimize CNFs like this to make finding bugs easier?)

Armin's own cnfdd at https://fmv.jku.at/cnfuzzdd/

**Comment by hargoniX** [comment]
> Is Lean already supporting BVA, aka adding variables? Because lrat-trim 0.2 does not. You need the latest version 0.2.1-rc1. To deactivate BVA in CaDiCaL, you can use --no-factor. Then the proof goes through with lrat-trim 0.2.

It doesn't unfortunately, indeed with the lrat-trim rc everything works. Sorry for the noise and thanks for the quick response! I'll use `--no-factor` until our checker catches up.
